US06184225B2
Acetic anhydride (55 ml, 0.58 mmol) was added to a mixture of 4-(5-benzyloxy-2-fluoro-4-methylanilino)-7-(2-hydroxyethoxy)-6-methoxyquinazoline (233 mg, 0.52 mmol), triethylamine (80 ml, 0.57 mmol) and 4-(N,N-dimethylamino)pyridine (5 mg) in ethyl acetate (50 ml). The mixture was stirred for 2 hours at ambient temperature, water was added, the organic layer separated, washed with water and brine and dried (MgSO4). Most of the solvent was removed by evaporation and hexane added. The precipitated product was collected by filtration to give 7-(2-acetoxyethoxy)-4-(5-benzyloxy-2-fluoro-4-methylanilino)-6-methoxyquinazoline (110 mg, 43%).

reactant | Acetic anhydride | 0.58 mmol, 55 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(5-benzyloxy-2-fluoro-4-methylanilino)-7-(2-hydroxyethoxy)-6-methoxyquinazoline | 0.52 mmol, 233 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCO)C1)F)C | C25H24FN3O4
reactant | triethylamine | 0.57 mmol, 80 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
catalyst | 4-(N,N-dimethylamino)pyridine | 5 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-(2-acetoxyethoxy)-4-(5-benzyloxy-2-fluoro-4-methylanilino)-6-methoxyquinazoline | 110 mg, 43% | C(C)(=O)OCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C)F)OC | C27H26FN3O5
